US05663053
A mixture of 2,4,5-triphenyl-1-(7-bromoheptyl)-imidazole (0.95 g) and triethyl phosphite (1.66 g) in xylene (5 ml) was heated at reflux temperature for 20 hours. The mixture was evaporated to an oil and chromatographed on silica gel (ethyl acetate/ethanol) to give diethyl 7-(2,4,5-triphenylimidazol-1-yl)heptane-phosphonate (0.37 g, 35%) as a light brown oil. NMR μ(CDCl3) 0.9-1.7 (18H, m, 6×CH2 +2×CH3), 3.9 (2H, t, CH2N), 4.1 (4H, m, 2×CH20), 7.1-7.7 (15H, m, 3×Ph) ppm. Diethyl 7-(2,4,5-triphenylimidazol-l-yl)heptane-phosphonate (0.35 g) was dissolved in dry chloroform, cooled to -40° C and to it was added trimethylsflyl iodide (0.66 g) over 2 minutes under an atmosphere of nitrogen. The cooling bath was removed and the reaction mixture was stirred for 3 hours at room temperature then evaporated to an oil and re- evaporated from methanol and water respectively. The oil was taken up in methanol, treated with excess aqueous sodinto bicarbonate, evaporated to dryness then taken up in ethanol, filtered and the flitrate evaporated to an oil. This was taken up in water, filtered and dilute hydrochloric acid added to pH4. The precipitated oil was washed with water, taken up in methanol and precipitated with ether to give 7-(2,4,5-triphenylimidazol-1-yl)heptane-phosphonic acid (0.16 g, 51%) as a light brown oil. Found: C, 68.12; H, 6.39, N, 5.60% C28H31N2O3P+4% H2O requires: C, 68.03; H 6.76; N, 5.66%.

reactant | Diethyl 7-(2,4,5-triphenylimidazol-l-yl)heptane-phosphonate | 0.35 g | C1(=CC=CC=C1)C=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCP(OCC)(=O)OCC | C32H39N2O3P
reactant | iodide | 0.66 g | [I-]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-(2,4,5-triphenylimidazol-1-yl)heptane-phosphonic acid | 0.16 g, 51% | C1(=CC=CC=C1)C=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCP(O)(=O)O | C28H31N2O3P
